US07163937B2
Preparation H6, Step 4: To a solution of methyl 3-tert-butyl-5-(2-(2-cyanoethyl)-2H-tetrazol-5-yl)benzoate (500 mg) in 20 mL of THF cooled to 0° C. was added dropwise a solution of lithium hydroxide monohydrate (76 mg) in 5.0 mL of water. The reaction mixture was stirred at RT for 16 h. THF was removed under reduced pressure to give a yellow oil which was diluted with 10 mL of 1 N HCl. The aqueous phase was extracted with EtOAc (2×25 mL), and the extracts were combined, dried over Na2SO4, and concentrated to afford 3-tert-butyl-5-(2H-tetrazol-5-yl)benzoic acid. MS found: (M+H)+=247.

reactant | methyl 3-tert-butyl-5-(2-(2-cyanoethyl)-2H-tetrazol-5-yl)benzoate | 500 mg | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)C=1N=NN(N1)CCC#N | C16H19N5O2
reactant | lithium hydroxide monohydrate | 76 mg | O.[OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 5.0 mL | O | H2O
solvent | HCl | 1 N, 10 mL | Cl | ClH
product | 3-tert-butyl-5-(2H-tetrazol-5-yl)benzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C=1N=NNN1 | C12H14N4O2
